US03940394
[4-Chloro-6-(p-chlorobenzylidenehydrazino)-2-pyrimidinylthio] acetic acid ethyl ester
To a solution of 2.1 g of p-chlorobenzaldehyde in 25 ml. of glacial acetic acid was added a solution of 3.9 g of (4-chloro-6-hydrazino-2-pyrimidinylthio) acetic acid ethyl ester in 100 ml. of glacial acetic acid. The reaction mixture was warmed on a steam bath for a few minutes and then cooled in ice. The resulting precipitate was collected, washed with petroleum ether and recrystallized twice from ethanol affording 3.6 g of product, mp. 162°-165°C.

reactant | p-chlorobenzaldehyde | 2.1 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | (4-chloro-6-hydrazino-2-pyrimidinylthio) acetic acid ethyl ester | 3.9 g | C(C)OC(CSC1=NC(=CC(=N1)Cl)NN)=O | C8H11ClN4O2S
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | [4-Chloro-6-(p-chlorobenzylidenehydrazino)-2-pyrimidinylthio] acetic acid ethyl ester | C(C)OC(CSC1=NC(=CC(=N1)Cl)NN=CC1=CC=C(C=C1)Cl)=O | C15H14Cl2N4O2S
